Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
confusion
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___  year-old right-handed man who presents via EMS
after wife noticed memory difficulties. Mr. ___ reports that 
he
is here because his wife became worried when he asked her a few
question but he does not think anything is wrong. He reports 
that
he has not had any unusual symptoms this morning. He denies any
difficulty producing or understanding language.  No weakness,
tingling, numbness. No difficulties with coordination or
difficulties walking. No difficulty swallowing. He currently
feels fine. His wife is at bedside and reports that this morning
they woke up at 7:45am. Everything seemed like a normal day 
until
approximately 9am. They were eating breakfast and the patient
started asking questions like "where did that bowl of little
things come from" - regarding a bowl of M&Ms that had been on 
the
table for months. He proceded to ask more questions about items
around that house. His wife at first thought he was joking but
became concerned as the behavior continued and called EMS. She
notes that she did not notice him having any trouble with his
face, speech, language, motor, or gait. She notes he was able to
dress himself without difficulty. Now he is starting to appear 
at
his baseline to her. She reports that his baseline is very 
sharp,
highly functional.   

Mr. ___ has never had any confusional spells or events
concerning for seizure in the past. He denies any unusual smells
or tastes, no ___. No history meningitis. The only head
trauma he recalls is from ___ when he was in a car accident and
hit his forehead on the mirror, causing a large gash on his 
right
forehead. He denies any previous strokes or stroke-type 
symptoms.

 
Past Medical History:
- chronic headaches- mild, stable for year, typically occur in
the morning and relieved with acetaminophen
- melanoma in situ of the cheek, removed ___
- Colon cancer - in situ, removed in ___ and ___.
- remote inguinal hernia 
 
Social History:
___
Family History:
Mother passed away from brain aneuysm at age ___. 
Father had a GI-type cancer
Brother is younger and has prostate cancer
Eldest son is T1DM with partial foot amputation. 
Younger son recently diagnosed with atrial fib
Daughter is youngest and healthy.
 
Physical Exam:
ADMISSION EXAM:
NIHSS 0
General exam wnl
Mental Status: Alert, oriented x 3.  Vague about history of this
morning's event but otherwise able to relay history of events
last night as well as remote events without difficulty. 
Attentive, able to name ___ backward without difficulty. 
Language is fluent with intact repetition and comprehension. 
Normal prosody.  There were no paraphasic errors.  Pt. was able
to name both high and low frequency objects.  Able to read
without difficulty.  Speech was not dysarthric. Able to follow
both midline and appendicular commands. Pt. was able to register
3 objects and recall ___ at 5 minutes.  Good knowledge of 
current
events.  There was no evidence of apraxia or neglect.

-Cranial Nerves: 
I: Olfaction not tested.  
II: PERRL 3 to 2mm and brisk.  VFF to confrontation. Funduscopic
exam revealed no papilledema, exudates, or hemorrhages. 
III, IV, VI: EOMI without nystagmus.  Normal saccades. 
V: Facial sensation intact to light touch. 
VII: No facial droop, facial musculature symmetric. 
VIII: Hearing intact to finger-rub bilaterally.  
IX, X: Palate elevates symmetrically.  
XI: ___ strength in trapezii and SCM bilaterally. 
XII: Tongue has full strength.

-Motor: Normal bulk, tone throughout. No pronator drift. 
No adventitious movements or asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___   ___  4+ 5    5  5     5     5   5 
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation,
proprioception throughout. Vibration mildly decreased at great
toes bilaterally, improved at medial malleoli. No extinction to
DSS.

-DTRs: 
  Bi Tri ___ Pat Ach 
L  2  2    2    2   1 
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia. No
dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

DISCHARGE EXAM:
unchanged, no focal neuro deficits
 
Pertinent Results:
___ 10:30AM BLOOD WBC-6.3 RBC-4.15* Hgb-13.7* Hct-39.5* 
MCV-95 MCH-33.0* MCHC-34.7 RDW-12.6 Plt ___
___ 10:30AM BLOOD ___ PTT-30.7 ___
___ 06:00AM BLOOD Glucose-100 UreaN-17 Creat-0.8 Na-140 
K-3.7 Cl-105 HCO3-27 AnGap-12
___ 10:30AM BLOOD CK(CPK)-125
___ 06:00AM BLOOD Calcium-8.8 Phos-3.1 Mg-1.9

IMAGING:
MRI BRAIN/MRA HEAD AND NECK:
1.  No evidence of acute intracranial process.
2.  Small vessel ischemic disease.
3.  Prominent sulci and ventricles, likely age-related 
involutional changes.
4.  No evidence of stenosis, dissection, or aneurysm formation 
in the
intracranial or cervical vessels.

EEG:
Normal EEG in the waking state. There were no focal
abnormalities or epileptiform features.
 
Brief Hospital Course:
Mr. ___ was admitted to the Neurology Service for an episode 
that seemed consistent with transient global amnesia, with some 
unusual features, in order to work up for possible TIA, stroke 
or seizure.
Neuro exam revealed no focal deficits. He was back to baseline 
and able to register new memories, as well as recall distant 
memories. His mental status exam remained stable throughout 
admission. 
The patient was initially treated with ASA and statin in case of 
vascular etiology. MRI brain and MRI head and neck were 
unremarkable. He had some small vessel disease which was 
nonspecific. EEG was normal with no epileptiform activity. 
Overall, the impression was of transient global amnesia. 
 
Medications on Admission:
- vitamins and supplements only
 
Discharge Medications:
none
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
transient global amnesia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
Neuro Status: normal exam

 
Discharge Instructions:
You were admitted for an episode of confusion. This may 
represent a condition called "transient global amnesia." You had 
an MRI and did not have a stroke. Your EEG was normal. Usually, 
this condition does not recur 
 
Followup Instructions:
___